US05908840
N-[2-(Dimethylamino)ethyl]-11-oxo-2-(3-quinolinyl)-11H-pyrido[2,1-b]quinazoline-6-carboxamide
A mixture of N-[2-(dimethylamino)ethyl]-2-iodo-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide (750 mg), 3-quinolinylboronic acid (743.47 mg), tetrakis-(triphenylphosphine)palladium(0) (198.67 mg) and sodium carbonate (4.3 ml of 2 M (8.6 mmol))and 33 ml of toluene was heated at 120° C. for 7 hours and cooled to room temperature. The reaction mixture was diluted with 70 ml of water and extracted with 3×70 ml CHCl3. The organic layer was dried over Na2SO4 and evaporated in vacuo to a residue. The residue was purified by column chroma-tography on silica gel by elution with 5-10% MeOH/CHCl3 to give 501 mg of a yellow solid.

reactant | N-[2-(dimethylamino)ethyl]-2-iodo-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide | 750 mg | CN(CCNC(=O)C1=CC=CN2C1=NC1=CC=C(C=C1C2=O)I)C | C17H17IN4O2
reactant | 3-quinolinylboronic acid | 743.47 mg | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 70 ml | O | H2O
product | N-[2-(Dimethylamino)ethyl]-11-oxo-2-(3-quinolinyl)-11H-pyrido[2,1-b]quinazoline-6-carboxamide | 501 mg | CN(CCNC(=O)C1=CC=CN2C1=NC1=CC=C(C=C1C2=O)C=2C=NC1=CC=CC=C1C2)C | C26H23N5O2
